US07189722B2
Step C. (±)-3-Methyl-5′-nitro-spiro[imidazolidine-4,2′-indane]-2,5-dione
To stirred fuming nitric acid (100 mL) was slowly added (±)-3-methyl-spiro[imidazolidine-4,2′-indane]-2,5-dione (4.5 g, 20.9 mmol) in portions over 30 min. The reaction mixture was diluted with H2O (200 mL) and the precipitate was collected by filtration, washed with H2O and dried in vacuo to give the title compound. MS: m/z=262 (M+1).

reactant | nitric acid | 100 mL | [N+](=O)(O)[O-] | HNO3
reactant | (±)-3-methyl-spiro[imidazolidine-4,2′-indane]-2,5-dione | 20.9 mmol, 4.5 g | CN1C(NC(C12CC1=CC=CC=C1C2)=O)=O | C12H12N2O2
solvent | H2O | 200 mL | O | H2O
product | (±)-3-Methyl-5′-nitro-spiro[imidazolidine-4,2′-indane]-2,5-dione | CN1C(NC(C12CC1=CC=C(C=C1C2)[N+](=O)[O-])=O)=O | C12H11N3O4
